US09359381B2
Step 1: 2-(Thiiran-2-ylmethyl)isoindoline-1,3-dione
Thiourea (1.873 g, 24.61 mmol) was added to a solution of N-(2,3-epoxypropyl)phthalimide (2 g, 9.84 mmol) in methanol (25 mL). The mixture was stirred at room temperature for 16 hours, then concentrated under vacuum. The residue was diluted with water (50 ml) and extracted with ethyl acetate (50 ml). The organic extract was washed with brine (50 ml) passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-50% EtOAc/hexane, afforded the title compound.

reactant | Thiourea | 24.61 mmol, 1.873 g | NC(=S)N | CH4N2S
reactant | N-(2,3-epoxypropyl)phthalimide | 9.84 mmol, 2 g | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
solvent | methanol | 25 mL | CO | CH4O
product | 2-(Thiiran-2-ylmethyl)isoindoline-1,3-dione | S1C(C1)CN1C(C2=CC=CC=C2C1=O)=O | C11H9NO2S
